US04277474
72.0 g of 3',4'-dimethylpropiophenone, 59.4 g of piperidine hydrochloride and 20.0 g of paraformaldehyde, 300 ml of ethyl acetate and 1 ml of concentrated hydrochloric acid were heated with stirring under reflux for 2.5 hours, while distilling off water generated through the reaction. After cooling, crystals precipitated were filtered and recrystallized froma mixture of alcohol-acetone, yielding white crystals of the object product. Each filtrate was collected, concentrated under reduced pressure to dryness, and dissolved in water. The solution was washed with ether, then adjusted to be alkaline with 5 N sodium hydroxide and extracted with ether. The extract was washed and then ether was removed after addition ofconcentrated hydrochloric acid, and the residue was recrystallized from a mixture of alcohol-acetone, yielding white crystals of 2,3',4'-trimethyl-3-piperidinopropiophenone hydrochloride (total yield 61.3%), m.p. 184°-185° C.

reactant | 3',4'-dimethylpropiophenone | 72.0 g | CC=1C=C(C=CC1C)C(CC)=O | C11H14O
reactant | piperidine hydrochloride | 59.4 g | Cl.N1CCCCC1
reactant | paraformaldehyde | 20.0 g | C=O | CH2O
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2,3',4'-trimethyl-3-piperidinopropiophenone hydrochloride | yield 61.3% | Cl.CC(C(=O)C1=CC(=C(C=C1)C)C)CN1CCCCC1 | InChI=1S/C17H25NO.ClH/c1-13-7-8-16(11-14(13)2)17(19)15(3)12-18-9-5-4-6-10-18;/h7-8,11,15H,4-6,9-10,12H2,1-3H3;1H
